US03988339
Converting 8-trifluoromethylisoquinoline to the hydrochloride, m.p. 213°-216.5° C., then treating by the procedure of Example 9 gives 8-trifluoromethyl-1,2,3,4-tetrahydroisoquinoline.

reactant | 8-trifluoromethylisoquinoline | FC(C=1C=CC=C2C=CN=CC12)(F)F | C10H6F3N
reactant | hydrochloride | Cl | ClH
product | 8-trifluoromethyl-1,2,3,4-tetrahydroisoquinoline | FC(C=1C=CC=C2CCNCC12)(F)F | C10H10F3N
